US07713993B2
A solution of 5-chloro-2-(4-fluorophenyl)-2-methoxyvaleric acid hydrazide monohydrochloride (81 mg) and TEA (0.16 ml) in ethanol (1 ml) was added to a solution of ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate dihydrochloride (94 mg) and TEA (0.16 ml) in ethanol (1 ml), and the reaction solution was stirred at 75° C. for 24 hours. The reaction solution was left to cool to room temperature. Then, ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The organic layer washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: heptane-ethyl acetate system) and again purified by silica gel column chromatography (elution solvent: ethyl acetate-methanol system) to obtain 36 mg of 8-(4-fluorophenyl)-8-methoxy-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine as a racemate. Then, the racemate was separated by CHIRALPAK™ AD-H manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm; mobile phase: ethanol) to obtain the title optically active compound with a retention time of 15 minutes and negative optical rotation (14.2 mg, 100% ee) and the title optically active compound with a retention time of 18 minutes and positive optical rotation (14.3 mg, >99% ee).

reactant | 5-chloro-2-(4-fluorophenyl)-2-methoxyvaleric acid hydrazide monohydrochloride | 81 mg | Cl.ClCCCC(C(=O)NN)(OC)C1=CC=C(C=C1)F
reactant | ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate dihydrochloride | 94 mg | Cl.Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(OCC)=N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 8-(4-fluorophenyl)-8-methoxy-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 36 mg | FC1=CC=C(C=C1)C1(C=2N(CCC1)N=C(N2)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)OC | C26H26FN5O2
